US07750003B2
3-(1-Hydroxypropan-2-yl)-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]urea
A solution of phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate (110 mg, 0.23 mmol) and triethylamine (0.079 mL, 0.68 mmol) in DMF (2 mL) was added to 2-aminopropan-1-ol (1.14 mmol). The reaction was stirred at 40° C. for 2 hours then purified by prep-HPLC (basic) to give the desired material as a solid (22 mg).

reactant | phenyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate | 0.23 mmol, 110 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C24H26N4O5S
reactant | triethylamine | 0.68 mmol, 0.079 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminopropan-1-ol | 1.14 mmol | NC(CO)C | C3H9NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(1-Hydroxypropan-2-yl)-1-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]urea | 22 mg | OCC(C)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C)=O | C21H29N5O5S
